Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.5660264280500003
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.81387303584
[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:4][C:5]([H:6])([H:7])[O:8][H:9].[H:1][C:2]#[C:3],5.95973125458
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]([H:10])[H:11].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.86500598813
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],0.38595126956
[C:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C@@:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.18968642835
[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-0.951202929999
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1]=[C:2]=[C:5]([H:6])[C:7]([H:8])[H:9].[O:3][H:4],5.92670562345
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][H:5].[O:6]=[C:7]=[C:8]([H:9])[H:10],-2.47223866406
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[C:1]#[C:2].[C:3]([H:4])([H:5])=[C:6][O:7][H:8],3.5919131342800004
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],-0.2559738937999999
[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4][H:5])[C:7]([H:8])([H:9])[H:10].[H:6],4.00306538115
[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5][C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-7.41087346
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]#[C:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-5.06623101523
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13],-1.68886748166
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1],3.88210354102
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15],-4.950838675980001
[H:1][O:2][C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3],4.84358419518
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.04538162143
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[H:10].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9],4.01289063577
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:19].[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])=[C:16]([H:17])[H:18],1.34169468536
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:11]([H:12])([H:13])[H:14].[O:9][H:10]>>[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-2.86316743487
[H:1][C:2]=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.046861277430001
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12].[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13],-3.72310195705
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[H:9]>>[C:3][H:4].[H:1][C:2]#[C:5][C:6]([H:7])([H:8])[H:9],3.1537821241
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]1[C:2]([C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:3]1,3.6105744665
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.6109966594
[C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.54889116
[C:4]([H:5])#[C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.18839691715
